US07700786B2
A solution of diisopropylcarbamoyl chloride (1.47 g, 9.0 mmol) in pyridine (5 ml) was added to a solution of 3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-methylpyrazole (1.67 g, 6.0 mmol) in pyridine (10 ml), and the mixture was stirred under heating at 80° C. for 20 hours. After completion of the reaction, the reaction mixture was poured into 2N hydrochloric acid, and the mixture was extracted with ethyl acetate (20 ml×3). An organic layer was washed with water, dried over anhydrous magnesium sulfate and filtered to remove a desiccant. The solvent was distilled off from the filtrate under reduced pressure. The resultant crude product was purified with a silica gel column (ethyl acetate/hexane=1/5), to give a white solid of N,N-diisopropyl-3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-methylpyrazole-1-carboxamide (2.1 g, yield: 86.7%). mp: 58-60° C.; 1H-NMR (CDCl3, TMS, ppm): δ 1.28 (d, J=7.5 Hz, 12H), 2.29 (s, 3H), 3.50-4.10 (m, 2H), 6.00 (s, 1H), 7.98 (d, J=2.5 Hz, 1H), 8.31 (m, 1H).

reactant | diisopropylcarbamoyl chloride | 9.0 mmol, 1.47 g | C(C)(C)N(C(=O)Cl)C(C)C | C7H14ClNO
reactant | 3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-methylpyrazole | 6.0 mmol, 1.67 g | ClC=1C(=NC=C(C1)C(F)(F)F)OC1=NNC(=C1)C | C10H7ClF3N3O
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | N,N-diisopropyl-3-(3-chloro-5-trifluoromethylpyridin-2-yloxy)-5-methylpyrazole-1-carboxamide | 2.1 g, yield: 86.7% | C(C)(C)N(C(=O)N1N=C(C=C1C)OC1=NC=C(C=C1Cl)C(F)(F)F)C(C)C | C17H20ClF3N4O2
